US07759337B2
Synthesis of N-(2-methoxy-5-(trifluoromethyl)phenyl)-4-methyl-3-(1-morpholinophthalazin-6-yl)benzamide
3-Iodo-N-(2-methoxy-5-(trifluoromethyl)phenyl)-4-methylbenzamide (205 mg, 471 μmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (34 mg, 47 μmol), bis(pinacolato)diboron (179 mg, 707 μmol), and potassium acetate (118 μL, 1884 μmol) were dissolved/suspended in dimethylformamide (2.4 mL) and placed in the microwave at 160° C. for 10 min. The reaction mixture was then transferred to another vial containing 6-bromo-1-morpholinophthalazine (125mg, 424 μmol), tetrakis(triphenylphosphine) palladium(0)(54 mg, 47 μmol), potassium carbonate-2 M in water (942 μL, 1884 μmol), and ethanol (2.4 mL). The combined mixture was reacted in a microwave oven at 160° C. for 10 min. The reaction mixture was diluted with 50 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layer was washed 3 times with 50 mL of sodium bicarbonate (saturated, aqueous), dried over sodium sulfate, and concentrated via rotovap to give a crude product. The crude product was purified by chromatography to obtain the title compound. Found MS (ES+): 523(M+H)+.

reactant | 3-Iodo-N-(2-methoxy-5-(trifluoromethyl)phenyl)-4-methylbenzamide | 471 μmol, 205 mg | IC=1C=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)OC)C=CC1C | C16H13F3INO2
reactant | bis(pinacolato)diboron | 707 μmol, 179 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1884 μmol, 118 μL | C(C)(=O)[O-].[K+]
reactant | 6-bromo-1-morpholinophthalazine | 424 μmol, 125mg | BrC=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C12H12BrN3O
reactant | potassium carbonate | 2 M | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1884 μmol, 942 μL | O | H2O
solvent | dimethylformamide | 2.4 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 47 μmol, 34 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 47 μmol, 54 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 2.4 mL | C(C)O | C2H6O
product | N-(2-methoxy-5-(trifluoromethyl)phenyl)-4-methyl-3-(1-morpholinophthalazin-6-yl)benzamide | COC1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1)=O | C28H25F3N4O3
